US06426345B1
A mixture of 3-nitroaniline (6.14 g), 2-chloropyrimidine (4.85 g) and potassium carbonate (6.15 g) in dimethylsulfoxide (50 ml) was heated at 170° C. for 5 hours. The mixture was cooled and poured into a mixture of ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulfate and concentrated. The resulting solid was collected and washed with isopropyl ether to give 2-(3-nitrophenylamino)pyrimidine (1.92 g).

reactant | 3-nitroaniline | 6.14 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 2-chloropyrimidine | 4.85 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 6.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3-nitrophenylamino)pyrimidine | 1.92 g | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC=CC=N1 | C10H8N4O2
